data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_668744_1,[C:1]([N:2]([H:5])[H:6])([N:4]=[C:3]([H:9])[H:10])([H:7])[H:8]>>[C:1](=[N:4][C:3]([N:2]([H:5])[H:6])([H:9])[H:10])([H:7])[H:8],62.8158874999906
MR_316298_0,[N:1](\[C:3]([C:2]([N:5]([H:11])[H:12])([O:7][H:10])[H:8])=[C:6]([H:13])[H:14])=[N:4]/[H:9]>>[N:1]([C:3]([C:2]([N:5]([H:11])[H:12])=[O:7])=[C:6]([H:13])[H:14])([N:4]([H:9])[H:10])[H:8],56.594224999968645
MR_114696_1,[C:1]([N:3]([C:4](=[O:7])[H:8])/[C:5](=[C:6](/[C:2]([H:14])([H:15])[H:16])[H:10])[H:9])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:5](\[C@@:6]([C:2]([H:14])([H:15])[H:16])([C:4](=[O:7])[H:8])[H:10])[H:9])([H:11])([H:12])[H:13],63.5852024999744
MR_506722_0,[C:1]1([C:4]([H:17])([H:18])[H:19])([H:9])[C:2]([H:12])([H:13])[O:8][C:5]([C:3]([H:14])([H:15])[H:16])=[C:6]1[N:7]([H:10])[H:11]>>[C:1](\[C:4]([H:17])([H:18])[H:19])(=[C:6](\[C@@:5]1([C:3]([H:14])([H:15])[H:16])[C:2]([H:12])([H:13])[O:8]1)[N:7]([H:10])[H:11])[H:9],66.41271749996946
MR_425423_0,[C:1]([C:3]([C:4]([C:2]([O:6][H:9])=[O:7])=[C:5]([H:13])[H:14])=[O:8])([H:10])([H:11])[H:12]>>[C:1]([C:3]([C:2]([C:4](=[C:5]([H:13])[H:14])[O:6][H:9])=[O:7])=[O:8])([H:10])([H:11])[H:12],69.73658500003111
MR_266928_0,[C:1](/[N:7]=[C:2](\[C:3]([N:5]([H:10])[H:11])=[C:6]([H:15])[H:16])[N:4]([H:8])[H:9])([H:12])([H:13])[H:14]>>[C:1]([N:7]1[C:2]([N:4]([H:8])[H:9])=[C:3]([N:5]([H:10])[H:11])[C:6]1([H:15])[H:16])([H:12])([H:13])[H:14],60.29522000004121
MR_394327_1,[C:1](/[N:8]=[C:6](/[C:3]([H:18])([H:19])[H:20])[N:4]([C:5]([C:2]([H:15])([H:16])[H:17])=[O:9])[N:7]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:8]([C:5]([C:2]([H:15])([H:16])[H:17])=[O:9])/[C:6]([C:3]([H:18])([H:19])[H:20])=[N:4]/[N:7]([H:10])[H:11])([H:12])([H:13])[H:14],20.93151750001482
MR_567498_2,[C:1]([N:2]([H:7])[H:8])(=[C:4]([H:11])[H:12])[O:5][N:6]=[C:3]([H:9])[H:10]>>[C:1]([N:2]([H:7])[H:8])([C:4]([N:6]=[C:3]([H:9])[H:10])([H:11])[H:12])=[O:5],46.0528524999738
MR_67143_0,[C:1]1([C:4]([H:17])([H:18])[H:19])([O:7][H:11])[C:3]([H:15])([H:16])[C:2]([C:5]([H:20])([H:21])[H:22])([O:9][H:13])[C:6]1([O:8][H:12])[O:10][H:14]>>[C:1]([C:3]([C:2]([C:5]([H:20])([H:21])[H:22])([O:9][H:13])[H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])([C:6]([O:8][H:12])=[O:10])[O:7][H:11],65.26878500000407
MR_529261_1,[C:1](/[C:2](=[C:3]([N:4]([H:9])[H:10])/[C:5](=[N:7]\[H:11])[H:12])[O:6][H:8])([H:13])([H:14])[H:15]>>[C:1]([C:2]1([O:6][H:8])[C:3]([N:4]([H:9])[H:10])=[C:5]([H:12])[N:7]1[H:11])([H:13])([H:14])[H:15],44.00783000000061
MR_266598_0,[C:1]([N:4]([H:11])[H:12])(/[C:6](=[C:5]([C:2](\[N:3]([H:8])[H:9])=[N:7]/[H:10])/[H:15])[H:16])([H:13])[H:14]>>[C:1](=[C:6]([C:5](/[C:2]([N:3]([H:8])[H:9])=[N:7]\[H:10])([N:4]([H:11])[H:12])[H:15])[H:16])([H:13])[H:14],68.8072574999876
MR_407031_1,[C:1]1([H:12])([H:13])[N:3]([H:9])[C:4]2([C:2]([H:15])([H:16])[H:17])[C:7]1([H:14])[C:5]([N:6]([H:10])[H:11])=[N:8]2>>[C:1]1([H:12])([H:13])[N:3]([H:9])[C:4]([C:2]([H:15])([H:16])[H:17])=[N:8][C:5]([N:6]([H:10])[H:11])=[C:7]1[H:14],21.657534999965264
MR_689942_1,[C:1](\[N:2]([H:8])[H:9])([O:3][H:7])=[N:4]\[N:5]=[N:6]\[H:10]>>[C:1]1([N:2]([H:8])[H:9])([O:3][H:7])[N:4]=[N:5][N:6]1[H:10],24.685849999988392
MR_662194_1,[C:1]([C:3]([H:14])([H:15])[H:16])([N:4](/[N:6]=[N:7]/[C:2]([H:11])([H:12])[H:13])[H:9])([O:5][H:8])[H:10]>>[C:1]([C:3]([H:14])([H:15])[H:16])([O:5][H:8])([N:7]([C:2]([H:11])([H:12])[H:13])/[N:6]=[N:4]/[H:9])[H:10],59.00131499999077
MR_645973_1,[C:1]([C:4]([C:3]([O:7][H:11])=[O:9])=[O:10])([C:5]([C:2]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])([O:8][H:12])[H:13]>>[C:1](=[C:4](\[C:5]([C:2]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])[O:10][C:3]([O:7][H:11])=[O:9])(\[O:8][H:12])[H:13],71.43334499999185
MR_270120_1,[C:1]([C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:18])([H:22])[H:23])[O:9][H:11])([C:4]([H:15])([H:16])[H:17])([O:7][C:3]([H:12])([H:13])[H:14])[O:8][H:10]>>[C:1]([C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:18])([H:22])[H:23])[O:7][C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])([O:8][H:10])[O:9][H:11],70.19528750001442
MR_485698_1,[C:1](/[C:4](=[C:5](/[C:2]([H:16])([H:17])[H:18])[N:3](/[C:6](=[N:8]/[H:11])[H:12])[H:10])[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([C@@:4]1([O:7][H:9])[N:3]([H:10])[C@@:5]1([C:2]([H:16])([H:17])[H:18])/[C:6](=[N:8]/[H:11])[H:12])([H:13])([H:14])[H:15],73.17403000002002
MR_46959_0,[C:1]([N:4]([H:9])[H:10])([O:6][C:2]([N:3]([H:7])[H:8])=[O:5])([H:11])[H:12]>>[C:1]([N:4]([H:9])[H:10])([O:5][C:2]([N:3]([H:7])[H:8])=[O:6])([H:11])[H:12],33.55744500002572
MR_23889_1,[C:1]([C:2]([O:8][C:3]([H:12])([H:13])[H:14])([H:10])[H:11])([C:6]([H:21])([H:22])[H:23])([N:7]([C:4]([H:16])([H:17])[H:18])[C:5]([H:15])([H:19])[H:20])[H:9]>>[C:1]([C:2]([N:7]([C:4]([H:16])([H:17])[H:18])[C:5]([H:15])([H:19])[H:20])([H:10])[H:11])([C:6]([H:21])([H:22])[H:23])([O:8][C:3]([H:12])([H:13])[H:14])[H:9],72.62998750003817
